US07723330B2
Step B: 2-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)pyrimidin-5-amine:
A 250 mL round-bottomed flask was charged with 1-(4-methoxybenzyl)-3-methyl-4-(5-nitropyrimidin-2-yloxy)-1H-pyrazolo[3,4-b]pyridine (0.420 g, 1.07 mmol), SnCl2 dihydrate (1.45 g, 6.42 mmol), and EtOH (100 mL). The reaction mixture was heated to 70° C. under nitrogen for 2 hours, then concentrated in vacuo. The residue was diluted with EtOAc, water, and brine. Aqueous saturated Na2CO3 was added until the pH was in the 9-10 range. The combined organic phases were dried (Na2SO4). The product was isolated by filtration and flash chromatography (EtOAc/MeOH 95:5) to afford 0.10 g (25%). LRMS M+1 (363.0) observed.

reactant | 1-(4-methoxybenzyl)-3-methyl-4-(5-nitropyrimidin-2-yloxy)-1H-pyrazolo[3,4-b]pyridine | 1.07 mmol, 0.420 g | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=NC=C(C=N3)[N+](=O)[O-])C)C=C1 | C19H16N6O4
solvent | EtOH | 100 mL | CCO | C2H6O
product | 2-(1-(4-methoxybenzyl)-3-methyl-1H-pyrazolo[3,4-b]pyridin-4-yloxy)pyrimidin-5-amine | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=NC=C(C=N3)N)C)C=C1 | C19H18N6O2
